US08357703B2
b) 5-Methyl-3-(tetrahydro-pyran-4-yl)-isoxazole-4-carboxylic acid ethyl ester
To a solution of tetrahydro-pyran-4-carbaldehyde oxime (6.5 g, 50 mmol) in DMF (47 mL) was added N-chlorosuccinimide (6.95 g, 50 mmol) at room temperature and the after 3 h the mixture was extracted with tert-butylmethylether (100 mL). The organic extract was then added dropwise over 2 h to a solution of ethyl 2-butynoate (61.2 mL, 52.5 mmol) and triethylamine (8.4 mL, 60 mmol) in tert-butylmethylether (47 mL) heated under reflux and the resulting mixture heated overnight. The reaction mixture was then cooled to room temperature and extracted with tert-butylmethylether and washed with aqueous hydrochloric acid solution (1 N). The combined organic phases were dried over sodium sulfate, filtered and concentrated. Purification by chromatography (silica, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (4.2 g, 35%) as a light yellow solid. MS: m/e=240.2 [M+H]+.

reactant | tetrahydro-pyran-4-carbaldehyde oxime | 50 mmol, 6.5 g | O1CCC(CC1)C=NO | C6H11NO2
reactant | N-chlorosuccinimide | 50 mmol, 6.95 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl 2-butynoate | 52.5 mmol, 61.2 mL | C(C#CC)(=O)OCC | C6H8O2
reactant | triethylamine | 60 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 47 mL | CN(C)C=O | C3H7NO
solvent | tert-butylmethylether | 47 mL | C(C)(C)(C)OC | C5H12O
product | 5-Methyl-3-(tetrahydro-pyran-4-yl)-isoxazole-4-carboxylic acid ethyl ester | 4.2 g, 35% | C(C)OC(=O)C=1C(=NOC1C)C1CCOCC1 | C12H17NO4
